US07538123B2
Synthesis of 1-{1-[2-(4-hydroxy-7-methoxy-2,2-dimethylchroman-8-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide
259 mg of 1-(1-(2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl)piperidin-4-yl)-N-methyl-1H-indole-6-carboxamide was dissolved in 5 ml of methanol. Thereafter, 60 mg of sodium borohydride was added to the reaction solution while cooling on ice. The obtained mixture was then stirred at room temperature overnight. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) and then purified by silica gel column chromatography (ethyl acetate-methanol), so as to obtain 216 mg of the subject compound.

reactant | 1-(1-(2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl)piperidin-4-yl)-N-methyl-1H-indole-6-carboxamide | 259 mg | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)NC)(C)C)=O | C29H35N3O4
reactant | sodium borohydride | 60 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-{1-[2-(4-hydroxy-7-methoxy-2,2-dimethylchroman-8-yl)ethyl]piperidin-4-yl}-N-methyl-1H-indole-6-carboxamide | 216 mg | OC1CC(OC2=C(C(=CC=C12)OC)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)NC)(C)C | C29H37N3O4
